US07863314B2
A. 3-{5-Amino-4-[3-(2-bromo-ethoxy)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methylbenzamide
To a solution of 3-[5-amino-4-(3-hydroxy-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide (472 mg, 1.26 mmol) in THF (dry, 20 mL) at 0° C. was added of 2-bromoethanol (785 mg, 6.3 mmol), PPh3 (1.3g, 5.04 mmol) and diethyl azodicarboxylate (877 mg, 5.04 mmol) and the mixture was stirred at room temperature for 72 h. An aqueous solution of NH4Cl was added then the THF layer was isolated. The aqueous layer was extracted by EtOAc. The combined organic phase was washed by brine, purified by preparatory HPLC, to provide the product as a white solid (360 mg, 59%). HPLC (4 minute 10-90 gradient) tR 2.72 min; MS m/z 483.14/485.09 [M+H]+.

reactant | 3-[5-amino-4-(3-hydroxy-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | 1.26 mmol, 472 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)O)=O | C21H20N4O3
reactant | 2-bromoethanol | 6.3 mmol, 785 mg | BrCCO | C2H5BrO
reactant | PPh3 | 5.04 mmol, 1.3g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 5.04 mmol, 877 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-{5-Amino-4-[3-(2-bromo-ethoxy)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methylbenzamide | 360 mg, 59% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)OCCBr)=O | C23H23BrN4O3
